US08420647B2
(4-Cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-[4-(2,5-dichloro-phenoxy)-6-methyl-pyridin-3-yl]-methanone
To a solution of 420 mg (1.381 mmol) lithium 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate in 6 mL dry N,N-dimethylformamide was added 1.17 mL (6.907 mmol) N-ethyldiisopropylamine and 635 mg (1.658 mmol) 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, commercially available, CAS RN 148893-10-1) and 289 mg (1.658 mmol) 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline (Example 8, intermediate a). The reaction mixture was stirred for 18 hours at room temperature and then poured on 30 mL 10% aqueous sodium bicarbonate solution and 30 mL ethyl acetate. The layers were separated and the aqueous layer was extracted a second time with 30 mL ethyl acetate. The organic layers were washed with 30 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by silica gel chromatography using a MPLC system (20 g silica gel column, CombiFlash Companion, Isco Inc.) with gradient of n-heptane:ethyl acetate (100:0 to 0:100) to give 375 mg (60%) of the title compound as a light yellow solid. MS (ESI): m/z=454.108 [M+H]+.

reactant | lithium 4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate | 1.381 mmol, 420 mg | ClC1=C(OC2=CC(=NC=C2C(=O)[O-])C)C=C(C=C1)Cl.[Li+]
reactant | N-ethyldiisopropylamine | 6.907 mmol, 1.17 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.658 mmol, 635 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline | 1.658 mmol, 289 mg | C1(CC1)N1CCNC2=CC=CC=C12 | C11H14N2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (4-Cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-[4-(2,5-dichloro-phenoxy)-6-methyl-pyridin-3-yl]-methanone | 375 mg, 60% | C1(CC1)N1CCN(C2=CC=CC=C12)C(=O)C=1C=NC(=CC1OC1=C(C=CC(=C1)Cl)Cl)C | C24H21Cl2N3O2
